* Z:\mnt\spice-netlists\LTM4676_LTM4620A_F39_DC2106A-A.asc
XU1 OUT 0 N015 N018 N025 N016 N019 N024 IN NC_01 OUT N016 N019 N002 N002 NC_02 NC_03 NC_04 NC_05 NC_06 NC_07 NC_08 NC_09 IN N001 N025 OUT NC_10 N007 OUT N015 N018 N003 0 IN NC_11 NC_12 NC_13 N008 MP_14 0 LTM4676 VIN_ON=4.2 VIN_OFF=4 Vout_0=1.0 Vout_1=1.0 Ilim0_range=1 Ilim1_range=1 OC_limit0=1 OC_limit1=1 Mode_ll=2 Fault_response=0 Retry_delay=.1m Freq=350K PHs_0=90 PHs_1=270 Ton0_delay=.3m Ton0_rise=.5m Ton1_delay=.3m Ton1_rise=.5m Toff0_delay=.2m Toff0_fall=.3m Toff1_delay=.2m Toff1_fall=.3m Vout0_range=0 Vout1_range=0
C1 IN 0 10µ x4
V1 IN 0 12
R1 N001 N002 10K
C2 OUT 0 100µ x5
C3 OUT 0 330µ x4
C4 OUT 0 330µ x2
C5 OUT 0 100µ
C6 N025 0 4.7n
R3 N024 N001 10K
Iload OUT 0 PULSE(50 100 1.4m 5u 5u .3m .6m) load
C7 IN 0 10µ x4
C8 OUT 0 100µ
C9 OUT 0 330µ x2
C10 OUT 0 330µ x2
C11 OUT 0 100µ
XU3 0 N020 N017 0 N017 N020 0 OUT NC_15 NC_16 NC_17 NC_18 N002 OUT NC_19 NC_20 NC_21 0 N010 MP_22 MP_23 MP_24 MP_25 NC_26 N004 IN MP_27 MP_28 MP_29 MP_30 N009 N022 0 N021 P001 MP_31 MP_32 N002 LTM4620A
C12 N004 0 4.7µ
M1 N021 N024 0 0 2N7002
R2 N003 N021 200
R4 N026 N027 23.2K
R6 N027 0 76.8K
R7 N003 N017 60.4K
R8 N017 0 8.25K
C14 OUT 0 100µ
C15 OUT 0 330µ x2
C16 OUT 0 330µ x2
C17 OUT 0 100µ
XU5 0 N020 N017 0 N017 N020 0 OUT NC_33 NC_34 NC_35 NC_36 N002 OUT NC_37 NC_38 NC_39 0 N012 MP_40 MP_41 MP_42 MP_43 NC_44 N005 IN MP_45 MP_46 MP_47 MP_48 N011 N023 0 N022 P002 MP_49 MP_50 N002 LTM4620A
C18 N005 0 4.7µ
C20 OUT 0 100µ
C21 OUT 0 330µ x2
C22 OUT 0 330µ x2
C23 OUT 0 100µ
XU6 0 N020 N017 0 N017 N020 0 OUT NC_51 NC_52 NC_53 NC_54 N002 OUT NC_55 NC_56 NC_57 0 N014 MP_58 MP_59 MP_60 MP_61 NC_62 N006 IN MP_63 MP_64 MP_65 MP_66 N013 NC_67 NC_68 N023 P003 MP_69 MP_70 N002 LTM4620A
C24 N006 0 4.7µ
R9 0 P001 80.6K
R10 0 P002 80.6K
R11 0 P003 80.6K
XU2 N025 N026 N003 0 N026 LT6220
XU4 N027 N020 N003 0 N020 LT6220
C13 IN 0 10µ x4
C19 IN 0 10µ x4
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* Please read the following notes carefully, since the model presents different user interface\nthan the real part does.\n \n(1) All PMBus communication and memory address related functions and pins are not modeled. \n \n(2) Changes to all parameter values during the simulation running will not be in effect, unless the\nsimulation is stopped and restarted. This is different from the operation of the part, which will\n respond to the commanded changes while running. \n \n(3) Share_clk is not modeled. The default time reference of LTspice is used as the common time \nbase for all time related parameters.\n \n(4) The following parameters can be defined, by right-clicking the symbol of LTC3880. Different \nnomenclature from the datasheet is adopted here. If any value of these parameters are set beyond \nthe scope discribed in the datasheet, the resulting simulation outcomes are not meaningful.\n \n     VIN_ON & VIN_OFF -- in volts, set the unit start/stop input voltages;\n     Freq -- in Hz, sets switching frequency as one of values of 250K, 350K, \n                425K, 500K, 575K, 650K, 750K, 1000K. FREQ_CFG pin needs to float \n                (or short to VDD25), to make the value be in effect;\n     PHs_0 & PHs_1 -- in degree,  set phase angle related to SYNC signal. \n                Certain combinations are restricted as in datasheet. FREQ_CFG \n                pin needs to float (or short to VDD25), to make the value be in effect;\n     Ton0_delay & Ton0_rise; Ton1_delay & Ton1_rise -- in sec, set delay and soft-start timers for \n                channel0 and channel1. Initialization time is not modeled;\n     Toff0_delay & Toff0_fall; Toff1_delay & Toff1_fall -- in sec, set delay and soft-off timers for \n                channel0 and channel1;\n     Vout_0 & Vout_1 -- in volt, set output voltages respectively;\n     Vout0_range & Vout1_range -- set maximum output range, with value 0\n                                                      for 4.096V (CH0) and 5.5V (CH1); value 1\n                                                      for 2.75V\n     Ilim0_range & Ilim1_range -- set maximum sensed peak current range, with value 0\n                           for low 50mV, and 1 for high 75mV;\n     OC_limit0 & OC_limit1 -- set ratio of peak current limit to the maximum value defined\n                      by Ilimit_range. It must be one of values: 0.5, 0.572, 0.642, \n                      0.714, 0.786, 0.858, 0.928, 1;\n     Mode_II -- sets light load operation mode: 0 for discontinuous, 1 for Burst,\n                      2 for forced continuous;\n     Fault_response -- sets the response mode of the unit to occuring faults:\n                                 0 for ignore, 1 for latch up, 2 for Hiccup after Retry_delay time;\n     Retry_delay -- in sec, sets the timer before the unit turns on after a fault;
* LTM4676 - Dual 13A or Single 26A µModule Regulator with Digital Power System Management\nLTM4620A - Dual 13A or Single 26A DC/DC µModule Regulator\nHigh Current, Parallel µModule Buck Regulators with Power System Management\nInput: 4.5V to 16V     Output: 1V @100A
* Notes: \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc.  All rights reserved.
.lib LTC4.LIB
.lib LTM4620A.sub
.lib LTM4676.sub
.backanno
.end
