* Z:\mnt\spice-netlists\LTM8062_TA01A.asc
V1 IN 0 19
XU1 N001 N001 IN NC_01 NC_02 0 N003 NC_03 OUT MP_04 OUT IN 0 LTM8062
R1 OUT N003 274K
R2 N003 0 2.87Meg
C2 N001 0 4.7µ
V2 N002 0 2.5
C3 OUT N002 1m
.tran 1.5m startup
* BATTERY
* LTM8062 - 32Vin, 2A µModule Power Tracking Battery Charger\n2A LiFePO4 µModule Battery Charger\nInput: 6V to 32V     Output: 3.6V @ 2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTM8062.sub
.backanno
.end
