* Z:\mnt\spice-netlists\LTM4637_TA01A_DC1872A.asc
V1 IN 0 12
R1 IN N002 10K
C1 N006 0 .001µ
R3 N007 0 60.4K
C3 OUT 0 470µ
Rload OUT 0 60m
C2 OUT N007 330p
XU1 0 NC_01 OUT 0 OUT N003 N003 N001 0 N004 N007 N005 N006 N002 IN 0 NC_02 LTM4637
C4 OUT 0 100µ x2
C5 0 N001 2.2µ
C6 IN 0 22µ x2
C7 N004 0 1.5n
R2 N004 0 124K
C8 N005 0 150p
.tran 1m startup
* LTM4637 - 20A DC/DC µModule Step-Down Regulator\nHigh Efficiency 20A µModule Buck Regulator\nInput: 4.5V to 20V     Output: 1.2V @ 20A, Fsw = 520kHz
* Notes:\n  A smaller TRACK/SS capacitor is being used to reduce simulation time. Typical value should be 0.1µF.\n  More output capacitors may be needed to meet load step and output voltage requirements.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
.lib LTM4637.sub
.backanno
.end
