* Z:\mnt\spice-netlists\LTM4600_TA01B.asc
V1 IN 0 12
XU1 N001 N006 N002 N003 N005 N007 N008 N004 0 0 OUT IN LTM4600
R1 N004 0 66.5K
R2 OUT N008 100K
C1 OUT N004 100p
C2 OUT 0 22µ
C3 IN 0 10µ x2
C4 OUT 0 100µ
Rload OUT 0 .15
C5 IN 0 150µ
.tran 2.3m startup
* LTM4600 - 10A High Efficiency DC/DC µModule\nInput: 5V to 20V     Output: 1.5V @ 10A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LTM4600.sub
.backanno
.end
